* /home/khadija.fahr/desktop/mixed_signal/fahr_clk-rvmyth-dac/fahr_clk-rvmyth-dac.cir

.include Clock_pulse_generator.sub
.include 10bitDAC.sub
* u3  clk net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ adc_bridge_2
* u5  net-_u5-pad1_ net-_u5-pad2_ net-_u5-pad3_ net-_u5-pad4_ net-_u5-pad5_ net-_u5-pad6_ net-_u5-pad7_ net-_u5-pad8_ net-_u5-pad9_ net-_u5-pad10_ net-_u5-pad11_ net-_u5-pad12_ net-_u5-pad13_ net-_u5-pad14_ net-_u5-pad15_ net-_u5-pad16_ dac_bridge_8
* u4  net-_u4-pad1_ net-_u4-pad2_ net-_u4-pad3_ net-_u4-pad4_ dac_bridge_2
x2 net-_u4-pad4_ net-_u4-pad3_ net-_u5-pad16_ net-_u5-pad15_ net-_u5-pad14_ net-_u5-pad13_ net-_u5-pad12_ net-_u5-pad11_ net-_u5-pad10_ net-_u5-pad9_ out 10bitDAC
x1 net-_r1-pad2_ net-_r1-pad1_ c_out clk Clock_pulse_generator
r1  net-_r1-pad1_ net-_r1-pad2_ 1k
r2  c_out net-_r1-pad1_ 10k
c1  c_out gnd 0.1u
v1 net-_r1-pad2_ gnd  dc 10
v2 net-_u3-pad2_ gnd  dc 0
* u1  c_out plot_v1
* u6  out plot_v1
* u2  clk plot_v1
* u7  net-_u3-pad3_ net-_u3-pad4_ net-_u5-pad1_ net-_u5-pad2_ net-_u5-pad3_ net-_u5-pad4_ net-_u5-pad5_ net-_u5-pad6_ net-_u5-pad7_ net-_u5-pad8_ net-_u4-pad1_ net-_u4-pad2_ fahr_rvmyth
a1 [clk net-_u3-pad2_ ] [net-_u3-pad3_ net-_u3-pad4_ ] u3
a2 [net-_u5-pad1_ net-_u5-pad2_ net-_u5-pad3_ net-_u5-pad4_ net-_u5-pad5_ net-_u5-pad6_ net-_u5-pad7_ net-_u5-pad8_ ] [net-_u5-pad9_ net-_u5-pad10_ net-_u5-pad11_ net-_u5-pad12_ net-_u5-pad13_ net-_u5-pad14_ net-_u5-pad15_ net-_u5-pad16_ ] u5
a3 [net-_u4-pad1_ net-_u4-pad2_ ] [net-_u4-pad3_ net-_u4-pad4_ ] u4
a4 [net-_u3-pad3_ ] [net-_u3-pad4_ ] [net-_u5-pad1_ net-_u5-pad2_ net-_u5-pad3_ net-_u5-pad4_ net-_u5-pad5_ net-_u5-pad6_ net-_u5-pad7_ net-_u5-pad8_ net-_u4-pad1_ net-_u4-pad2_ ] u7
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             fahr_rvmyth, NgSpice Name: fahr_rvmyth
.model u7 fahr_rvmyth(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 1e-03 2000e-03 0e-00

* Control Statements 
.control
option noopalter
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(c_out)
plot v(out)
plot v(clk)
.endc
.end
